US07776897B2
1-[4-Methyl-5-(2-methylphenyl)-1,2,4-triazol-3-yl]cyclopentanamine (270 mg) was dissolved in chloroform (5 ml) and then diisopropylethylamine (1.7 ml) and benzoyl chloride (0.48 ml) were added thereto, followed by stirring at room temperature for 19 hours. The reaction solution was diluted with a saturated aqueous sodium bicarbonate solution, followed by extraction with chloroform (10 ml×2). The organic layer was dried over anhydrous sodium sulfate and filtered and then the solvent was removed by evaporation under reduced pressure. The resulting residue was purified by column chromatography (methanol:chloroform=1:19) and the resulting solid was dissolved in ethanol (1 ml) and then a 1M aqueous sodium hydroxide solution (2 ml) was added thereto, followed by stirring at room temperature for 6 days. The resulting solid was collected by filtration and washed with water to obtain 51 mg of N-{1-[4-methyl-5-(2-methylphenyl)-1,2,4-triazol-3-yl]cyclopentyl}benzamide (white solid).

reactant | 1-[4-Methyl-5-(2-methylphenyl)-1,2,4-triazol-3-yl]cyclopentanamine | 270 mg | CN1C(=NN=C1C1=C(C=CC=C1)C)C1(CCCC1)N | C15H20N4
reactant | diisopropylethylamine | 1.7 ml | C(C)(C)N(CC)C(C)C | C8H19N
reactant | benzoyl chloride | 0.48 ml | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
solvent | chloroform | 5 ml | C(Cl)(Cl)Cl | CHCl3
solvent | sodium bicarbonate | C([O-])(O)=O.[Na+]
product | N-{1-[4-methyl-5-(2-methylphenyl)-1,2,4-triazol-3-yl]cyclopentyl}benzamide | 51 mg | CN1C(=NN=C1C1=C(C=CC=C1)C)C1(CCCC1)NC(C1=CC=CC=C1)=O | C22H24N4O
